US06180631B2
2-Amino-6-benzylamino-3-nitropyridine was prepared from 2-amino-6-chloro-3-nitropyridine as follows: 2-Amino-6-chloro-3-nitropyridine (17.35 g, 0.10 mol), benzyl amine (Fluka) (10.72 g, 0.10 mol) and powdered potassium carbonate (10.4 g, 0.035 mol) in n-butanol (100 mL) were heated under reflux for 2 hours. The suspension was filtered and after cooling to room temperature the solid was collected by filtration, washed with butanol, and dried at 50 C. in vacuo to give 2-amino-6-benzylamino-3-nitropyridine (22.2 g, 91%, m.p. 145-146 C.).

reactant | 2-amino-6-chloro-3-nitropyridine | NC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H4ClN3O2
reactant | 2-Amino-6-chloro-3-nitropyridine | 0.10 mol, 17.35 g | NC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H4ClN3O2
reactant | benzyl amine | 0.10 mol, 10.72 g | C(C1=CC=CC=C1)N | C7H9N
reactant | potassium carbonate | 0.035 mol, 10.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | n-butanol | 100 mL | C(CCC)O | C4H10O
product | 2-amino-6-benzylamino-3-nitropyridine | 22.2 g, 91% | NC1=NC(=CC=C1[N+](=O)[O-])NCC1=CC=CC=C1 | C12H12N4O2
